US05071876
Preparation of N-(2,6-dimethylphenyl)-2-propenamide
A mixture of 2,6-dimethylaniline (8.68 g, 0.0718 mole) and triethylamine (15.3 ml) in ethyl ether (250 ml) was cooled to +5° C. A solution of acryloyl chloride (6.47 g, 0.0716 mole) in ethyl ether (25 ml) was added dropwise with stirring over a 20 minute period. The solution was allowed to warm to room temperature and stirred for 72 hours. 10 Percent hydrochloric acid (150 ml) was added and the layers separated. The acid layer was extracted with ethyl acetate (150 ml), combined, washed with water (150 ml), dried over sodium sulfate, filtered and the solvents evaporated. The solid was taken up in hot ethyl acetate and recrystallized from hexane to yield the title compound, m.p. ca. 143.5°-145.0° C.

reactant | 2,6-dimethylaniline | 0.0718 mole, 8.68 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.0716 mole, 6.47 g | C(C=C)(=O)Cl | C3H3ClO
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | ethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 25 ml | C(C)OCC | C4H10O
product | N-(2,6-dimethylphenyl)-2-propenamide | CC1=C(C(=CC=C1)C)NC(C=C)=O | C11H13NO
